US03994961
A solution of 29.7 g. (0.1 mole) of 2-(β-[2-dimethylaminoethyl]phenethyl)benzoic acid in 200 ml. of ethanol is saturated with gaseous hydrochloride, and the resulting mixture is refluxed for 18 hours. The solvent is removed in vacuo and the residue is partitioned between ether and 2N sodium hydroxide. The ether extract is dried and evaporated in vacuo to give 2-(β-[2-dimethylaminoethyl]phenethyl)benzoic acid ethyl ester.

reactant | 2-(β-[2-dimethylaminoethyl]phenethyl)benzoic acid | 0.1 mole | CN(CCC(CC1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1)C | C19H23NO2
reactant | hydrochloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 2-(β-[2-dimethylaminoethyl]phenethyl)benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)CC(C1=CC=CC=C1)CCN(C)C)=O | C21H27NO2
